US08071595B2
To a pre-cooled, −78° C. stirred solution of 2-methylbut-3-yn-2-ol (4.3 g, 0.04 mol) in dry THF (150 mL) n-BuLi (39.9 mL, 0.03 mol, 1.6 M in hexane) was added dropwise over 10 minutes under an inert atmosphere. The mixture was stirred for 30 min at −78° C., and then a solution of 4-methoxy-benzaldehyde (5 g, 0.037 mol) in dry THF (30 mL) was added to reaction mixture and stirring was continued for an additional 40 min at −78° C. The reaction mixture was then quenched with a saturated NH4Cl solution and extracted with EtOAc (2×100 mL). The combined organic layers were washed with water (100 mL) and brine (100 mL), dried over Na2SO4, filtered and concentrated in vacuo to obtain crude material. The crude material was purified via silica gel column chromatography eluting with 5% EtOAc in hexanes to afford 1-(4-methoxyphenyl)-4-methylpent-2-yne-1,4-diol (6.3 g, 78%) as an oil.

reactant | 2-methylbut-3-yn-2-ol | 0.04 mol, 4.3 g | CC(C)(C#C)O | C5H8O
reactant | 4-methoxy-benzaldehyde | 0.037 mol, 5 g | COC1=CC=C(C=O)C=C1 | C8H8O2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 0.03 mol, 1.6 M, 150 mL | C1CCOC1 | C4H8O
product | 1-(4-methoxyphenyl)-4-methylpent-2-yne-1,4-diol | 6.3 g, 78% | COC1=CC=C(C=C1)C(C#CC(C)(O)C)O | C13H16O3
